US06340759B1
Synthesis of 3-[4-(4,4-ethylenedioxypiperidin-1-yl)phenyl]-1-(4-ethylpiperazin-1-yl)isoquinoline
3-Bromo-1-(4-ethylpiperazin-1-yl)isoquinoline (1.72 g) and 4-(4,4-ethylenedioxypiperidin-1-yl)phenyltributylstannum (3.12 g) were reacted in the presence of tetrakistriphenylphosphine dichloride (0.5 g) in xylene (50 ml) at 140° C. for 5 hr. The reaction solution was concentrated, and ethyl acetate and an aqueous saturated solution of sodium bicarbonate were added to the resulting residue, for partitioning. The resulting organic layer was washed with water and brine, dried over magnesium sulfate and evaporated. The resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), to give 1.27 g of the title compound as a white powder.

reactant | 3-Bromo-1-(4-ethylpiperazin-1-yl)isoquinoline | 1.72 g | BrC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H18BrN3
reactant | 4-(4,4-ethylenedioxypiperidin-1-yl)phenyltributylstannum | 3.12 g | C1OC2(CCN(CC2)C2=CC=C(C=C2)[Sn](CCCC)(CCCC)CCCC)OC1
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-[4-(4,4-ethylenedioxypiperidin-1-yl)phenyl]-1-(4-ethylpiperazin-1-yl)isoquinoline | 1.27 g | C1OC2(CCN(CC2)C2=CC=C(C=C2)C=2N=C(C3=CC=CC=C3C2)N2CCN(CC2)CC)OC1 | C28H34N4O2
